US07732477B2
6-[(Z)-Amino(hydroxyimino)methyl]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride
800 mg (2.0 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-cyano-1-benzo-thiopene-2-carboxamide hydrochloride, 278.1 mg (4.0 mmol) of hydroxylamine hydrochloride and 829.5 mg (6.0 mmol) of potassium carbonate in 8 ml of an 8:1 mixture of water and ethanol are heated at 80° C. for 3 h. The mixture is purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol/25% ammonia 100:20:4). The product fractions are combined and concentrated, methanol and 4M HCl in dioxane are added and the mixture is then again concentrated and dried under high vacuum. 447.3 mg (53.6% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-cyano-1-benzo-thiopene-2-carboxamide hydrochloride | 2.0 mmol, 800 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)C#N
reactant | hydroxylamine hydrochloride | 4.0 mmol, 278.1 mg | Cl.NO
reactant | potassium carbonate | 6.0 mmol, 829.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 6-[(Z)-Amino(hydroxyimino)methyl]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride | Cl.Cl.N\C(\C1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1)=N/O | InChI=1S/C17H20N4O2S.2ClH/c18-16(20-23)12-2-1-11-7-15(24-14(11)8-12)17(22)19-13-9-21-5-3-10(13)4-6-21;;/h1-2,7-8,10,13,23H,3-6,9H2,(H2,18,20)(H,19,22);2*1H/t13-;;/m0../s1
